US04885415
100 g of 3-chloro-2,4-difluorobenzotrifluoride in 500 ml of acetonitrile and 60 g of pulverulent sodium carbonate were initially introduced into a hydrogenation apparatus equipped with a diffuser stone and a stirrer. 10 g of catalyst (5% by weight of metallic palladium on activated charcoal) were then added, and hydrogen was passed in at 80° C. for 10 hours. Subsequently, the batch was cooled and filtered, and the filtrate was distilled via a column packed with perforated rings made of stainless steel. 56 g of 2,4-difluorobenzotrifluoride having a boiling point of 105° to 106° C. at 1,030 mbar were obtained. The refractive index nD20 was 1.3968.

reactant | 3-chloro-2,4-difluorobenzotrifluoride | 100 g | ClC=1C(=C(C=CC1F)C(F)(F)F)F | C7H2ClF5
reactant | sodium carbonate | 60 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2,4-difluorobenzotrifluoride | 56 g | FC1=C(C=CC(=C1)F)C(F)(F)F | C7H3F5
